US04863920
3.26 g (10 mmol) of 3-bromo-7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux overnight with 1.10 g (12 mmol) of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 20 ml of diethylamine and 15 ml of methylene chloride. The reaction mixture was evaporated and the residue was dissolved in methylene chloride. After chromatography of the solution on silica gel while eluting with ethyl acetate and crystallization from ethyl acetate there was obtained 7-chloro-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 194°-195°.

reactant | 3-bromo-7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.26 g | BrC=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C12H9BrClN3O
reactant | 2-methyl-3-butyn-2-ol | 12 mmol, 1.10 g | CC(C)(C#C)O | C5H8O
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)(C)O)C)=O | C17H16ClN3O2
